US09422207B2
1-Furan-2-yl-undec-1-en-3-one was prepared using a procedure similar to that described for the synthesis of 1-(5-Hydroxymethyl-furan-2-yl)-undec-1-en-3-one using either ethanol as solvent or using no solvent.

reactant | 1-(5-Hydroxymethyl-furan-2-yl)-undec-1-en-3-one | OCC1=CC=C(O1)C=CC(CCCCCCCC)=O | C16H24O3
solvent | ethanol | C(C)O | C2H6O
product | 1-Furan-2-yl-undec-1-en-3-one | O1C(=CC=C1)C=CC(CCCCCCCC)=O | C15H22O2
